US06426345B1
A mixture of methyl 3-hydroxybenzoate (3.4 g), 2-chloropyrimidine (2.29 g) and potassium carbonate (3.04 g) in dimethylsulfoxide (30 ml) was stirred at 150° C. for 1 hour. The mixture was poured into a mixture of ethyl acetate and water. The organic phase was washed with water and brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with isopropyl ether to give methyl 3-(pyrimidine-2-yl)oxybenzoate (3.66 g).

reactant | methyl 3-hydroxybenzoate | 3.4 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | 2-chloropyrimidine | 2.29 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | potassium carbonate | 3.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | methyl 3-(pyrimidine-2-yl)oxybenzoate | 3.66 g | N1=C(N=CC=C1)OC=1C=C(C(=O)OC)C=CC1 | C12H10N2O3
